US07842685B2
A mixture of 5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine (50.6 mg, 201 μmol), 4-bromo-2-methylbenzonitrile (47 mg, 241 μmol), PdCl2(AmPhos)2 (7.1 mg, 10 μmol), and cesium carbonate (196 mg, 602 μmol) in DMF (1.6 mL) was heated (microwave) under argon at 190° C. for 30 min. The reaction mixture was then partitioned between EtOAc (40 mL) and water (15 mL). The organic layer was separated, washed with water and brine (10 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Chromatographic purification of the residue (silica gel, 10% EtOAc/hexanes) provided 2-methyl-4-(5-(1-phenyl-cyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzonitrile as a light-yellow solid. MS (ESI) m/z: Calculated: 367.1; Observed: 368.1 (M++1).

reactant | 5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | 201 μmol, 50.6 mg | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC=N2 | C15H12N2S
reactant | 4-bromo-2-methylbenzonitrile | 241 μmol, 47 mg | BrC1=CC(=C(C#N)C=C1)C | C8H6BrN
reactant | cesium carbonate | 602 μmol, 196 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 1.6 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(AmPhos)2 | 10 μmol, 7.1 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 2-methyl-4-(5-(1-phenyl-cyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzonitrile | CC1=C(C#N)C=CC(=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C23H17N3S
